US08865675B2
Synthesis of γ-Linolenyl Bromide (Compound 6)
Magnesium bromide etherate (34 g, 110 mmol) and a stir bar were added to a 2000 mL round bottom flask. The flask was sealed and flushed with nitrogen. Anhydrous diethyl ether (400 mL) was added via canulla. A solution of γ-linolenyl mesylate (20 g, 58 mmol) in anhydrous ether (300 mL) was then added, and the suspension stirred overnight. The suspension was poured into 500 mL of chilled water and transferred to a 2000-mL separating funnel. After shaking, the organic phase was separated. The aqueous phase was then extracted with ether (2×250 mL) and all ether phases combined. The ether phase was washed with water (2×250 mL), brine (250 mL) and dried over anhydrous Mg2SO4. The solution was filtered, concentrated and purified by flash chromatography. Final yield 18.9 g, 99%.

reactant | Magnesium bromide | 110 mmol, 34 g | [Br-].[Mg+2].[Br-]
reactant | γ-linolenyl mesylate | 58 mmol, 20 g | S(C)(=O)(=O)OCCCCC\C=C/C\C=C/C\C=C/CCCCC | C19H34O3S
reactant | water | 500 mL | O | H2O
solvent | ether | 300 mL | CCOCC | C4H10O
product | γ-Linolenyl Bromide | C(CCCC\C=C/C\C=C/C\C=C/CCCCC)Br | C18H31Br
